Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
peanut / cat dander / dog dander / ragweed pollen / jute / nut - 
unspecified
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
none

attach
 
Pertinent Results:
Admission Labs:
===============
___ 09:25AM BLOOD WBC-14.8* RBC-3.72* Hgb-11.3 Hct-34.9 
MCV-94 MCH-30.4 MCHC-32.4 RDW-13.3 RDWSD-45.1 Plt ___
___ 09:25AM BLOOD Neuts-86.6* Lymphs-7.4* Monos-4.9* 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-12.78* AbsLymp-1.10* 
AbsMono-0.72 AbsEos-0.04 AbsBaso-0.05
___ 09:25AM BLOOD Glucose-200* UreaN-14 Creat-0.7 Na-140 
K-4.0 Cl-102 HCO3-17* AnGap-21*
___ 04:08AM BLOOD %HbA1c-6.4* eAG-137*

Imaging: 
========
___ CXR:
Mild prominence of the central pulmonary vasculature without 
evidence of overt pulmonary edema.  No focal consolidation.

Discharge Labs:
===============
___ 06:00AM BLOOD WBC-11.3* RBC-3.71* Hgb-11.1* Hct-34.7 
MCV-94 MCH-29.9 MCHC-32.0 RDW-13.2 RDWSD-45.5 Plt ___
___ 06:00AM BLOOD Glucose-126* UreaN-14 Creat-0.7 Na-141 
K-4.4 Cl-101 HCO3-24 AnGap-16
___ 06:00AM BLOOD Calcium-9.0 Phos-5.0* Mg-2.0
 
Brief Hospital Course:
Ms. ___ is a ___ y/o F w/ severe persistent asthma, allergies, 
and depression, who presented with SOB, DOE, and cough with no 
consolidation on CXR in setting of recent sick contacts.
Overall picture was felt to be consistent with severe asthma 
exacerbation probably triggered by viral illness.  She required 
BIPAP for several hours in the ED.

# Asthma w/ acute exacerbation: stable/improving
# Acute respiratory acidosis: improving
# Acute hypoxic respiratory failure: improving
Presented with dyspnea and wheezing along with recent sick 
contacts, felt to be consistent with asthma exacerbation 
triggered by viral illness. CXR negative for focal infiltrate. 
She required BIPAP for several hours in the ED.
On admission her peak flows were 250, well below her baseline of 
475. She improved gradually on the medical floor with usual 
asthma exacerbation treatment including prednisone, standing & 
PRN nebs, and expectorants in addition to her home medications.
Peak flows and wheezing significantly improved with steroid 
treatment, though she still had some mild wheezing on day of 
discharge (day four of steroids). Therefore she was discharged 
on a short steroid taper (40mg on ___, 30mg on ___, 20mg 
on ___, 10mg on ___. 

# Seasonal Allergies: continued fluticasone nasal spray, 
cetirizine

# Leukocytosis: developed leukocytosis to 17, likely steroid 
effect. There was no evidence of pneumonia on CXR. Improved to 
11 at time of discharge

# Steroid-induced Hyperglycemia 
# Pre-Diabetes
HbA1c in ___ was 6.2%, repeat A1c here is 6.4%.
While hospitalized, treated with NPH and ISS.

# Depression: continued home bupropion 200mg BID, LamoTRIgine 
100 mg BID, Sertraline 50mg

> 30 minutes spent on discharge coordination and planning

Transitional Issues:
====================
- discharged on a short steroid taper (40mg on ___, 30mg on 
___, 20mg on ___, 10mg on ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 200 mg PO BID 
2. Cetirizine 10 mg PO DAILY 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN shortness of 
breath 
5. LamoTRIgine 100 mg PO BID 
6. Montelukast 10 mg PO DAILY 
7. fluticasone-salmeterol 500-50 mcg/dose inhalation DAILY 
8. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
9. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 anaphylaxis 
10. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1.  PredniSONE 40 mg PO DAILY 
RX *prednisone 10 mg 4 tablet(s) by mouth once a day Disp #*16 
Tablet Refills:*0 
2.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN  
3.  BuPROPion (Sustained Release) 200 mg PO BID  
4.  Cetirizine 10 mg PO DAILY  
5.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 anaphylaxis  
6.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
7.  fluticasone-salmeterol 500-50 mcg/dose inhalation DAILY  
8.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN shortness of 
breath  
9.  LamoTRIgine 100 mg PO BID  
10.  Montelukast 10 mg PO DAILY  
11.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Asthma exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came in with difficulty breathing. We believe this was due 
to a flare of your asthma. We treated you with steroids and your 
breathing improved.

We are sending you home on prednisone. You should taper 
(decrease) your prednisone dose as below:
___: take 40mg (4 tabs)
___ - ___: take 30mg each day (3 tabs)
___ - ___: take 20mg each day (2 tabs)
___ - ___: take 10mg each day (1 tab)
___: stop prednisone

You should return to the ED immediately if your breathing 
becomes worse after leaving the hospital.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!
 
Followup Instructions:
___